US04076838
6-ethyl-5,6,7,8-tetrahydronaphthalene-2-acetic acid
5.4 g of 6-ethyl-5,6,7,8-tetrahydro-8-oxo-naphthalene-2-acetic acid are dissolved in 150 cc of acetic acid and hydrogenation is effected at 4 atmospheres of hydrogen pressure and 45° with the addition of 1 g of palladium/charcoal (10%) and 2 cc of 70% aqueous perchloric acid. After the take up of the calculated amount of hydrogen, filtration is effected, 2 g of sodium acetate are added and the solution is concentrated. The residue is divided between ether and water, the ether extract is dried over sodium sulphate and concentrated by evaporation. The resulting 6-ethyl-5,6,7,8-tetrahydronaphthalene-2-acetic acid is recrystallized from hexane and has a M.P. of 64°-66°.

reactant | 6-ethyl-5,6,7,8-tetrahydro-8-oxo-naphthalene-2-acetic acid | 5.4 g | C(C)C1CC=2C=CC(=CC2C(C1)=O)CC(=O)O | C14H16O3
reactant | hydrogen | [H][H] | H2
reactant | perchloric acid | 2 cc | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 150 cc | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 1 g | [Pd] | Pd
product | 6-ethyl-5,6,7,8-tetrahydronaphthalene-2-acetic acid | C(C)C1CC=2C=CC(=CC2CC1)CC(=O)O | C14H18O2
